US07642264B2
5-{3-[4-(4-Chloro-3-methyl-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-phenyl}-pyridin-2-ylamine
The title compound was prepared from 2-(3-bromo-phenyl)-4-(4-chloro-3-methylphenyl)-6-trifluoromethyl-pyrimidine (example E.41) (0.21 g, 0.5 mmol) and commercially available 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.14 g, 0.65 mmol) according to the general procedure VI. Obtained as a white solid (0.13 g, 60%). MS (ISP) 441.1 [(M+H)+]; mp 168.5° C.

reactant | 2-(3-bromo-phenyl)-4-(4-chloro-3-methylphenyl)-6-trifluoromethyl-pyrimidine | 0.5 mmol, 0.21 g | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)C)C(F)(F)F | C18H11BrClF3N2
reactant | 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.65 mmol, 0.14 g | NC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C11H17BN2O2
product | 5-{3-[4-(4-Chloro-3-methyl-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-phenyl}-pyridin-2-ylamine | ClC1=C(C=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)C=1C=C(C=CC1)C=1C=CC(=NC1)N)C | C23H16ClF3N4
